US05180824
Synthesis of 6-Azido-2-fluoropurine
A solution of 2-amino-6-azidopurine (13.0 gm, 73.6 mmol) in tetrahydrofuran (THF, 163 mL), and 48% aqueous HBF4 (42.24 mL) was cooled in a bath at -20° C. A solution of t-butylnitrite (12.65 mL) in THF (10 mL) was added over a 5 minute period. The bath was replaced with an ice-water bath for 30 minutes and then with a bath at 50° C. for 15 minutes. The mixture was then poured over ice (600 g), and water (200 mL) was added. The suspension was neutralized (pH 6-7) with saturated potassium carbonate (K2CO3), and ethyl acetate was added. The resulting solid potassium fluoborate (KBF4) was collected by filtration and washed thoroughly with ethyl acetate. The aqueous layer was washed repeatedly with ethyl acetate and the combined ethyl acetate extracts were washed sequentially with water (500 mL) and saturated sodium chloride (NaCl) (250 mL) and dried over magnesium sulfate (MgSO4) along with decolorizing carbon. The ethyl acetate was then filtered through celite and concentrated in vacuo to afford 9.36 g of the title compound. mp 190°-195° C. (d) (from ethyl acetate/pet. ether; The decomposition or melting point of this material varies from sample to sample); IR (KBr) 2240, 2200, 1620, 1595, 1565 cm-1 ; MS (EI+, m/z) 179(M+, 55%), 151 ((M-N2)+, 100%); 1H NMR (DMSO-d6, 360 MHz) δ8.53 (s, 1H), 13.8 (bs, 1H); 13C NMR (DMSO-d6, 90 MHz) 120 (very broad), 145.4 (broad), 152.2 (broad), 156 (very broad), 157.0 (d, JCF =210 Hz) ppm; UV (MeOH) λmax, 250, 286 nm.

reactant | 2-amino-6-azidopurine | 73.6 mmol, 13.0 gm | NC1=NC(=C2NC=NC2=N1)N=[N+]=[N-] | C5H4N8
reactant | HBF4 | 42.24 mL | [H+].[B-](F)(F)(F)F
reactant | t-butylnitrite | 12.65 mL | C(C)(C)(C)ON=O | C4H9NO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 163 mL | O1CCCC1 | C4H8O
solvent | THF | 10 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 200 mL | O | H2O
product | 6-Azido-2-fluoropurine | 9.36 g | N(=[N+]=[N-])C1=C2NC=NC2=NC(=N1)F | C5H2FN7
